US07612084B2
7-{4-(benzyloxy)-3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]phenoxy}heptan-1-amine bis hydrochloride salt
Di-tert-butyl(7-{4-(benzyloxy)-3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]phenoxy}heptyl)imidodicarbonate (Preparation 17, 220 mg, 0.30 mmol) was dissolved in dichloromethane (6 ml) then hydrogen chloride (2M solution in diethyl ether, 6 ml, 12 mmol) was added and after 30 minutes, ethanol (1 ml) was added and left over night. The solvent was removed in vacuo to furnish the title compound as a pale brown foam, 190 mg.

reactant | Di-tert-butyl(7-{4-(benzyloxy)-3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]phenoxy}heptyl)imidodicarbonate | 0.30 mmol, 220 mg | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CCCCCCCOC1=CC(=C(C=C1)OCC1=CC=CC=C1)[C@H](CCN(C(C)C)C(C)C)C1=CC=CC=C1 | C45H66N2O6
reactant | hydrogen chloride | 12 mmol, 2M, 6 ml | Cl | ClH
reactant | ethanol | 1 ml | C(C)O | C2H6O
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 7-{4-(benzyloxy)-3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]phenoxy}heptan-1-amine bis hydrochloride salt | Cl.Cl.C(C1=CC=CC=C1)OC1=C(C=C(OCCCCCCCN)C=C1)[C@H](CCN(C(C)C)C(C)C)C1=CC=CC=C1 | InChI=1S/C35H50N2O2.2ClH/c1-28(2)37(29(3)4)24-22-33(31-18-12-9-13-19-31)34-26-32(38-25-15-7-5-6-14-23-36)20-21-35(34)39-27-30-16-10-8-11-17-30;;/h8-13,16-21,26,28-29,33H,5-7,14-15,22-25,27,36H2,1-4H3;2*1H/t33-;;/m1../s1
